US05344843
A solution of 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.5 g) in methanol (40 mL) and tetrahydrofuran (10 mL) was treated with ethanolamine (0.094 g) and the mixture was refluxed for 48 hours. The solvents were removed by evaporation and the residue was purified by HPLC (ethyl acetate-methanoltriethylamine; 95:5:2) followed by crystallization from tetrahydrofuran-ethyl alcohol to give 0.29 g of N-(2-hydroxyethyl)-4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetamide as a colorless solid, mp 138°-140° C.

reactant | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O5
reactant | ethanolamine | 0.094 g | C(O)CN | C2H7NO
solvent | methanol | 40 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-(2-hydroxyethyl)-4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetamide | 0.29 g | OCCNC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C22H21NO5
